US06281204B1
446 mg of triphenylphosphine is dissolved in 2 cm3 of methylene chloride, cooled down to 10° C., 116 mg of imidazole is added, agitation is carried out for 15 minutes, 431 mg of iodine is added, agitation is carried out for 30 minutes, 0.21 cm3 of 4,4,5,5,5-pentafluoro 2-penten 1-ol is added, agitation is carried out for 4 hours at ambient temperature, the organic phase is washed with a saturated aqueous solution of sodium thiosulphate and a chloromethylenic solution of 4,4,5,5,5-pentafluoro iodopentane is obtained which is used as it is in the continuation of the synthesis. The operation is carried out as indicated in Example 8 Stage F, starting with 618 mg of the thioacetate prepared below in 7 cm3 of methanol and the chloromethylenic solution of the iodated derivative prepared above. 1.2 g of expected product is obtained.

reactant | triphenylphosphine | 446 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 116 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 431 mg | II | I2
reactant | 4,4,5,5,5-pentafluoro 2-penten 1-ol | 0.21 cm3 | FC(C=CCO)(C(F)(F)F)F | C5H5F5O
solvent | methylene chloride | 2 cm3 | C(Cl)Cl | CH2Cl2
product | 4,4,5,5,5-pentafluoro iodopentane | FC(CCCI)(C(F)(F)F)F | C5H6F5I
